US05440044
2-[(2RS)-2-Hydroxy-2-(3-methoxycarbonylphenyl)-ethyl]-6[(1E)-(3RS)-3-hydroxy-1-undecenyl]-pyridine
A solution of 120 mg of 2-bromo-6-[(2RS)-2-hydroxy-2-(3-ethoxycarbonylphenyl)-ethyl]-pyridine in 0.7 ml of toluene is mixed with 180 mg of (1E)-1-(tri-n-butylstannyl)-1-undecen-(3RS)-3-ol and 22 mg of 1,1'-bis-(diphenylphosphino)-ferrocene-palladium(II) chloride and stirred under argon atmosphere for 2 hours at 100° C. The reaction mixture is evaporated to dryness and the residue is chromatographed on silica gel with hexane/0-15% ethyl acetate. 56 mg of the title compound is obtained as oil.

reactant | 2-bromo-6-[(2RS)-2-hydroxy-2-(3-ethoxycarbonylphenyl)-ethyl]-pyridine | 120 mg | BrC1=NC(=CC=C1)CC(C1=CC(=CC=C1)C(=O)OCC)O | C16H16BrNO3
reactant | toluene | 0.7 ml | C1(=CC=CC=C1)C | C7H8
catalyst | 1,1'-bis-(diphenylphosphino)-ferrocene palladium(II) chloride | 22 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2].[Pd](Cl)Cl
product | 2-[(2RS)-2-Hydroxy-2-(3-methoxycarbonylphenyl)-ethyl]-6[(1E)-(3RS)-3-hydroxy-1-undecenyl]-pyridine | 56 mg | OC(CC1=NC(=CC=C1)\C=C\C(CCCCCCCC)O)C1=CC(=CC=C1)C(=O)OC | C26H35NO4
